US05932574
Using an analogous procedure to that described in Example 1 except that the reaction mixture was heated to 100° C. for 16 hours, 4-(3'-chloro-4'-fluoroanilino)-6-hydroxyquinazoline was reacted with 3-(pyrrolidin-1-yl)propyl chloride hydrochloride (Chem. Abs., 82, 57736) to give 4-(3'-chloro-4'-fluoroanilino)-6-(3-pyrrolidin-1-ylpropoxy)quinazoline in 45% yield; NMR Spectrum: 1.73 (m, 4H), 2.03 (m, 2H), 2.58 (m, 4H), 2.69 (t, 2H), 4.22 (t, 2H), 7.44 (t, 1H), 7.51 (m, 1H), 7.73 (d, 1H), 7.85 (m, 1H), 7.9 (d, 1H), 8.17 (m, 1H), 8.52 (s, 1H), 9.72 (broad s, 1H); Elemental Analysis: Found C, 62.3; H, 5.9; N. 13.7; C21H22ClFN4O 0.25H2O requires C, 62.2; H, 5.6; N, 13.8%.

reactant | 4-(3'-chloro-4'-fluoroanilino)-6-hydroxyquinazoline | ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)O)C=CC1F | C14H9ClFN3O
reactant | 3-(pyrrolidin-1-yl)propyl chloride hydrochloride | Cl.N1(CCCC1)CCCCl
product | 4-(3'-chloro-4'-fluoroanilino)-6-(3-pyrrolidin-1-ylpropoxy)quinazoline | 45% yield | ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)OCCCN2CCCC2)C=CC1F | C21H22ClFN4O
